US07262185B2
4-aminothiophenol (8.9 g) was dissolved in methanol (178 ml), aqueous solution of sodium hydroxide (6.8 g, 53.4 ml) was added to the mixture, 4-(chloromethyl)pyridine hydrochloride (14.0 g) was added to the mixture at 0° C., and the mixture was stirred for 2 hours at room temperature. The solvent was removed under reduced pressure, and the obtained residue was added to water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure and the obtained residue was washed with hexane/ethyl acetate, to give 4-[(4-pyridinylmethyl)sulfanyl]aniline (13.7 g).

reactant | 4-aminothiophenol | 8.9 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | sodium hydroxide | 53.4 ml, 6.8 g | [OH-].[Na+]
reactant | 4-(chloromethyl)pyridine hydrochloride | 14.0 g | Cl.ClCC1=CC=NC=C1
solvent | methanol | 178 ml | CO | CH4O
product | 4-[(4-pyridinylmethyl)sulfanyl]aniline | 13.7 g | N1=CC=C(C=C1)CSC1=CC=C(N)C=C1 | C12H12N2S
